US07863332B2
In a manner similar to that of Example (25a), by reaction of 500 μL (3.8 mmol, 3.8 eq) of 1-iodopentane and 400 mg (1.0 mmol, 1 eq) of methyl 3-[2-hydroxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate in 10 ml of methyl ethyl ketone in the presence of 500 mg (3.61 mmol, 3.6 eq) of potassium carbonate at 80° C. for 12 hours, methyl 3-[3′-(1-methyl-3-pentylureido)-2-pentyloxybiphenyl-4-yl]propanoate is obtained in oil form and is used in the following reaction without further purification.

reactant | 1-iodopentane | 3.8 mmol, 500 μL, 3.8 eq | ICCCCC | C5H11I
reactant | methyl 3-[2-hydroxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate | 1.0 mmol, 400 mg, 1 eq | OC1=C(C=CC(=C1)CCC(=O)OC)C1=CC(=CC=C1)N(C(=O)NCCCCC)C | C23H30N2O4
reactant | potassium carbonate | 3.61 mmol, 500 mg, 3.6 eq | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
product | methyl 3-[3′-(1-methyl-3-pentylureido)-2-pentyloxybiphenyl-4-yl]propanoate | CN(C(=O)NCCCCC)C=1C=C(C=CC1)C1=C(C=C(C=C1)CCC(=O)OC)OCCCCC | C28H40N2O4
